* NMOS Transistor
MREF 6 6 7 7 NMOS W=WREF
M2 5 2 7 7 NMOS W=WREF
M2IREF 6 3 7 7 NMOS W=WREF

* Current Source
IREF 4 6 DC I_REF

* DC Voltage Source
VDD 4 0 DC V_DD

* Define the model for NMOS (Example)
.model NMOS NMOS(Level=1)

.END